US07485752B2
Benzoic acid N′-[3-(4-bromo-phenyl)-propionyl]-N′-isopropyl-hydrazide
A solution of (3-(4-bromophenyl)propionic acid (387 mg, 1.68 mmoles) and benzoic acid N′-isopropyl-hydrazide (300 mg, 1.68 mmoles) in DMF (10 mL) was treated with triethylamine (0.70 mL, 5.05 mmol), HOBT (273 mg, 2.02 mmoles) and EDCI (387 mg, 2.02 mmoles) at room temperature for 72 h. The reaction mixture was partitioned between 1N HCl and ethyl acetate. The organic layer was successively washed with water, 1N NaOH and brine, then dried over sodium sulfate, filtered and concentrated to afford the product as a solid (476 mg, 73%). The product was not further purified.

reactant | 3-(4-bromophenyl)propionic acid | 1.68 mmoles, 387 mg | BrC1=CC=C(C=C1)CCC(=O)O | C9H9BrO2
reactant | benzoic acid N′-isopropyl-hydrazide | 1.68 mmoles, 300 mg | C(C)(C)NNC(C1=CC=CC=C1)=O | C10H14N2O
reactant | triethylamine | 5.05 mmol, 0.70 mL | C(C)N(CC)CC | C6H15N
reactant | HOBT | 2.02 mmoles, 273 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 2.02 mmoles, 387 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Benzoic acid N′-[3-(4-bromo-phenyl)-propionyl]-N′-isopropyl-hydrazide | 476 mg, 73% | BrC1=CC=C(C=C1)CCC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C | C19H21BrN2O2
